### PR TITLE
chore: add `BitVec.(toNat, toInt, toFin)_shiftLeftZeroExtend`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `BitVec.(toNat, toInt, toFin)_shiftLeftZeroExtend`, completing the API for `BitVec.shiftLeftZeroExtend`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -940,7 +940,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:943]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3095,7 +3126,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3129]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1705,6 +1705,37 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+  · simp only [hn, ↓reduceIte]
+    have :=  Nat.pow_lt_pow_of_lt (a := 2) (n := w) (m := w + n) (by omega) (by omega)
+    have : x.toNat < 2 ^ (w + n) := by omega
+    have : x.toNat <<< n < 2 ^ (w + n) := by
+      rw [Nat.shiftLeft_eq, Nat.pow_add, Nat.mul_lt_mul_right (by apply Nat.two_pow_pos (w := n))]; omega
+    rw [Nat.mod_eq_of_lt (by rw [Nat.mod_eq_of_lt (by omega)]; omega), Nat.mod_eq_of_lt (by omega)]
+  · simp [show n = 0 by omega]
+
+theorem toInt_shiftLeftZeroExtend {x : BitVec w} :
+    (shiftLeftZeroExtend x n).toInt = ((x.toNat <<< n) : Int).bmod (2 ^ w * 2 ^ n)  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1721]: I think the RHS of this should just be `x.toInt * 2^n`. The proof is not 100% obvious, so not sure you want to push this through today.

**Comment by luisacicolini** [comment]
still in progress - will action on the feedback to update the statements next week.

**Comment by luisacicolini** [comment]
closing, superceded by #8811
